US05212177
C. 2-[(1-Oxopentyl)amino]benzamide
Valeryl chloride (6.0 mL, 50 mmol) was added to a mixture of anthranilamide (6.8 g, 50 mmol) and triethylamine (7.0 mL, 50 mmol ) in tetrahydrofuran (100 mL) at 25° C. A rapid, exothermic reaction was observed, but no external cooling was required to prevent reflux. The mixture was stirred at ambient temperature for 19 hours, after which it was poured into excess aqueous sodium bicarbonate solution, extracted with ethyl acetate, dried (magnesium sulfate), and concentrated in vacuo. The residue was triturated with hexane/ether to give the title compound as a tan solid (9.9 g, 90%); m.p. 119°-120° C.

reactant | Valeryl chloride | 50 mmol, 6.0 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | anthranilamide | 50 mmol, 6.8 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | triethylamine | 50 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[(1-Oxopentyl)amino]benzamide | 9.9 g, 90% | O=C(CCCC)NC1=C(C(=O)N)C=CC=C1 | C12H16N2O2
